* SPICE export by:      S-Edit 2022.2.3
* Export time:          Thu May 16 20:05:36 2024
* Design path:          /home/vlsi/Desktop/final_fullCustom/S_DES/lib.defs
* Library:              Midterm_HHAF
* Cell:                 INV
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt INV In Out Gnd Vdd 
* Library name: Midterm_HHAF
* Cell name: INV
* View name: schematic
* PORT=In TYPE=In
* PORT=Gnd TYPE=Other
* PORT=Out TYPE=Out
* PORT=Vdd TYPE=Other

MMn1 Out In Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=5600 $y=2900 $w=400 $h=600
MMp1 Out In Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=5600 $y=4900 $w=400 $h=600
.ends



